US05318966
3.30 g (0.01008 mol) of rac-cis-3-(4-cyclohexyl-butyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol were dissolved in 70 ml of 1,2-dichloroethane. 3.05 g (4.2 ml, 0.0301 mol) of triethylamine and 330 mg (2.70 mmol, 0.27 eq.) of 4-dimethylaminopyridine were added thereto in succession and then 2.8 ml (0.03024 mol) of dimethyl chloroformamide were added dropwise thereto. The mixture was boiled under reflux for 1 hour, then cooled, poured into water and extracted with CH2Cl2. The organic phase was washed with saturated aqueous sodium chloride solution, dried with MgSO4, filtered and concentrated, whereupon the residue was chromatographed over silica gel with n-hexane/ethyl acetate 1:1. The oil obtained (3.2 g) was dissolved in 100 ml of ether. 1.85 ml (8.83 mmol) of 4.78N ethanolic HCl solution were added dropwise thereto and the oily suspension was sonicated for 15 minutes in an ultrasonics bath. Then, it was stirred at room temperature for 1 hour and the separated crystals were filtered off under suction. After recrystallization from 120 ml of hot ethyl acetate and drying at 100°/0.02 Torr for 3 hours there were obtained 2.90 g (83%) of rac-cis-3-(4-cyclohexyl-butyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride as white crystals with m.p. 145°-147°.

reactant | rac-cis-3-(4-cyclohexyl-butyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 0.01008 mol, 3.30 g | C1(CCCCC1)CCCCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C22H33NO
reactant | triethylamine | 0.0301 mol, 4.2 ml, 3.05 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl chloroformamide | 0.03024 mol, 2.8 ml | CC(=O)N(Cl)C | C3H6ClNO
reactant | HCl | 8.83 mmol, 4.78N, 1.85 ml | Cl | ClH
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | 2.70 mmol, 330 mg, 0.27 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | rac-cis-3-(4-cyclohexyl-butyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride | 2.90 g, 83% | Cl.CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCC2CCCCC2)=O)C | InChI=1S/C25H38N2O2.ClH/c1-26(2)25(28)29-24-13-8-12-20-21-16-18-27(23(21)15-14-22(20)24)17-7-6-11-19-9-4-3-5-10-19;/h8,12-13,19,21,23H,3-7,9-11,14-18H2,1-2H3;1H/t21-,23+;/m1./s1
